US04458075
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(3-phenylpropyl)piperidine hydrochloride
To 40 ml of dimethylformamide was added 4.06 g of 4-(3-phenylpropyl)piperidine, 3.4 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 10 g of milled potassium carbonate, and 0.01 g of potassium iodide. After stirring at 90° C. for three hrs, the mixture was cooled, filtered and the filtrate was evaporated to an oil. The oil was stirred with 100 ml of water for ten mins and then extracted with ether. The ether extract was washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solution was acidified to pH 1 with ethereal hydrogen chloride. The resultant precipitate was collected and dried to give 5.0 g (60%) of product, mp 95° C. Recrystallization from ethyl acetate/methanol (5:1) gave the analytical sample, mp 136°-137° C.

reactant | 4-(3-phenylpropyl)piperidine | 4.06 g | C1(=CC=CC=C1)CCCC1CCNCC1 | C14H21N
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 3.4 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 0.01 g | [I-].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(3-phenylpropyl)piperidine hydrochloride | 5.0 g, 60% | Cl.FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)CCCC2=CC=CC=C2)C=C1 | InChI=1S/C24H29FN2O.ClH/c25-21-11-12-22-23(26-28-24(22)18-21)10-5-15-27-16-13-20(14-17-27)9-4-8-19-6-2-1-3-7-19;/h1-3,6-7,11-12,18,20H,4-5,8-10,13-17H2;1H
